### PR TITLE
feat: BitVec.ofBoolListLE and theorems

### PR DESCRIPTION
**Pull request by kim-em**
Requested by Jeremy Avigad on [zulip](https://leanprover.zulipchat.com/#narrow/stream/217875-Is-there-code-for-X.3F/topic/explicit.20bitvectors/near/427841343).

### CODE REVIEW

File: src/Init/Data/List/Lemmas.lean [hunk 1]
```diff
@@ -266,6 +266,18 @@ theorem get?_reverse {l : List α} (i) (h : i < length l) :
...
+theorem getD_nil : getD [] n d = d :=
+  rfl
+
+@[simp]
+theorem getD_cons_zero : getD (x :: xs) 0 d = x :=
+  rfl
+
+@[simp]
+theorem getD_cons_succ : getD (x :: xs) (n + 1) d = getD xs n d :=
+  rfl
```
Comment (digama0) [inline src/Init/Data/List/Lemmas.lean:279]:
```suggestion
@[simp] theorem getD_nil : getD [] n d = d := rfl

@[simp] theorem getD_cons_zero : getD (x :: xs) 0 d = x := rfl

@[simp] theorem getD_cons_succ : getD (x :: xs) (n + 1) d = getD xs n d := rfl
```

**Review by digama0 — APPROVED** [review]
